US08557983B2
methyl 2-(6-(benzyloxy)pyridin-3-yloxy)-4-fluorobenzoate
To 6-(benzyloxy)pyridin-3-ol (1.10 g) in 2-methyltetrahydrofuran (20 mL) was added potassium t-butoxide (5.47 mL, 1.0M in tetrahydrofuran). After stirring for 15 minutes, methyl 2,4-difluorobenzoate (1.035 g) in 2-methyltetrahydrofuran (2 mL) was added and the reaction heated to 75° C. for 1 hour. The reaction was cooled, diluted with ethyl acetate (150 mL), washed with water (50 mL), brine (50 mL), dried over magnesium sulfate, filtered and concentrated. Silica gel chromatography (SF40-80 g) eluting with a gradient of 5% to 20% ethyl acetate/hexanes gave the title compound.

reactant | 6-(benzyloxy)pyridin-3-ol | 1.10 g | C(C1=CC=CC=C1)OC1=CC=C(C=N1)O | C12H11NO2
reactant | potassium t-butoxide | 1.0M, 5.47 mL | CC(C)([O-])C.[K+]
reactant | methyl 2,4-difluorobenzoate | 1.035 g | FC1=C(C(=O)OC)C=CC(=C1)F | C8H6F2O2
solvent | 2-methyltetrahydrofuran | 20 mL | CC1OCCC1 | C5H10O
solvent | 2-methyltetrahydrofuran | 2 mL | CC1OCCC1 | C5H10O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | methyl 2-(6-(benzyloxy)pyridin-3-yloxy)-4-fluorobenzoate | C(C1=CC=CC=C1)OC1=CC=C(C=N1)OC1=C(C(=O)OC)C=CC(=C1)F | C20H16FNO4
